* C:\Users\Alienware\Desktop\LorisBurnWire\LTSpice Sim\Timer.asc
V1 Vs1 0 2.4
R2 Vs1 0 500k
R3 N004 0 500k
M1 N004 0 Vs1 Vs1 Si7137DP
M2 N001 0 N004 N004 Si7137DP
R1 N001 N002 500k
M3 Vd3 N002 N001 N001 Si7137DP
Rload Vd3 0 10
XU1 0 0 N018 N017 N001 N003 LTC6995-1
R5 N001 N017 1Meg
R6 N017 0 887k
R7 N003 N018 86.6k
R8 N003 0 100k
M5 N002 N003 0 0 BSB013NE2LXI
XU2 N003 0 N009 N010 N001 N005 LTC6993-1
R4 N009 0 715.255k
R9 N001 N010 1Meg
R10 N010 0 887k
C2 0 N001 .1µ
R11 N011 0 715.255k
R12 N001 N012 1Meg
R13 N012 0 887k
C3 0 N001 .1µ
XU3 N005 0 N011 N012 N001 N006 LTC6993-3
R14 N013 0 715.255k
R15 N001 N014 1Meg
R16 N014 0 887k
C5 0 N001 .1µ
XU4 N006 0 N013 N014 N001 N007 LTC6993-3
R17 N015 0 715.255k
R18 N001 N016 1Meg
R19 N016 0 887k
C4 0 N001 .1µ
XU5 N007 0 N015 N016 N001 N008 LTC6993-3
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Alienware\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 2100 1800 1
.lib LTC6993-1.sub
.lib LTC6993-3.sub
.lib LTC6995-1.sub
.backanno
.end
