* C:\Users\Alienware\Desktop\LorisBurnWire\LTSpice Sim\Timer.asc
V1 Vs1 0 2.4
R2 Vs1 0 500k
R3 N004 0 500k
M1 N004 0 Vs1 Vs1 Si7137DP
M2 N001 0 N004 N004 Si7137DP
R1 N001 N002 500k
M3 Vd3 N002 N001 N001 Si7137DP
Rload Vd3 0 10
XU1 0 0 N014 N013 N001 N003 LTC6995-1
R5 N001 N013 1Meg
R6 N013 0 887k
R7 N003 N014 86.6k
R8 N003 0 100k
M5 N002 N003 0 0 BSB013NE2LXI
XU2 N003 0 N005 N006 N001 Cut1 LTC6993-1
R4 N005 0 715.255k
R9 N001 N006 1Meg
R10 N006 0 887k
C2 0 N001 .1µ
R11 N007 0 715.255k
R12 N001 N008 1Meg
R13 N008 0 887k
C3 0 N001 .1µ
XU3 Cut1 0 N007 N008 N001 Cut2 LTC6993-3
R14 N009 0 715.255k
R15 N001 N010 1Meg
R16 N010 0 887k
C5 0 N001 .1µ
XU4 Cut2 0 N009 N010 N001 Cut3 LTC6993-3
R17 N011 0 715.255k
R18 N001 N012 1Meg
R19 N012 0 887k
C4 0 N001 .1µ
XU5 Cut3 0 N011 N012 N001 Cut4 LTC6993-3
M4 N015 Cut1 N016 N016 BUK7Y3R040E
R22 N016 0 10R
V2 N015 0 5
R20 Cut1 0 600k
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Alienware\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 2100 1800 1
.lib LTC6993-1.sub
.lib LTC6993-3.sub
.lib LTC6995-1.sub
.backanno
.end
